US04808609
First 3.46 g of potassium carbonate and then 10.5 ml of epichlorohydrin were added to a solution of 4 g of 1-[2-hydroxyphenyl]-3-(1H-indol-4-yl)-2-propen-1-one in 80 ml of acetone and the mixture was refluxed for 50 hours under an inert atmosphere and was filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica. Elution with a 95-5 dichloromethane-ethyl acetate mixture yielded 2.26 g of 1-[2-[(2-oxiranyl)-methoxy]-phenyl]-3-(1H-indol-4-yl)-2-propen-1-one.

reactant | potassium carbonate | 3.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | epichlorohydrin | 10.5 ml | C(Cl)C1CO1 | C3H5ClO
reactant | 1-[2-hydroxyphenyl]-3-(1H-indol-4-yl)-2-propen-1-one | 4 g | OC1=C(C=CC=C1)C(C=CC1=C2C=CNC2=CC=C1)=O | C17H13NO2
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 1-[2-[(2-oxiranyl)-methoxy]-phenyl]-3-(1H-indol-4-yl)-2-propen-1-one | 2.26 g | O1C(C1)COC1=C(C=CC=C1)C(C=CC1=C2C=CNC2=CC=C1)=O | C20H17NO3
